US04139617
To a stirred solution of 19-tetrahydropyranyloxy-1,5-androstadiene-3β,17β-diol in a mixture of dry ether and glyme is added zinc-copper couple and methylene iodide. This reaction mixture is refluxed for four hours, cooled to room temperature, diluted with ether and filtered. The ether filtrate is washed with an aqueous sodium chloride solution, washed with water, and dried over anhydrous magnesium sulfate. The ether is removed under reduced pressure and the residue which remains is crystallized from an acetone-hexane solution to yield 1β,2β-methylene-19-tetrahydropyranyloxy-5-androstene-3β,17β-diol.

reactant | 19-tetrahydropyranyloxy-1,5-androstadiene-3β,17β-diol | O1C(CCCC1)OC[C@]12C=C[C@@H](CC1=CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O | C24H36O4
reactant | glyme | C(OC)COC | C4H10O2
reactant | methylene iodide | C(I)I | CH2I2
solvent | ether | CCOCC | C4H10O
catalyst | zinc-copper couple | [Cu].[Zn]
product | 1β,2β-methylene-19-tetrahydropyranyloxy-5-androstene-3β,17β-diol | C1[C@@H]2[C@H]1[C@@H](CC1=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]21COC2OCCCC2)O)O | C25H38O4
